US05002361
D. 4-(N-2-hydroxyethyl-N-ethylamino)-4'-nitro-1,4-diphenyl-1,3-butadiene
A solution of 21.9 g (0.1 mole) of 4-(N-2-hydroxyethyl-N-ethylamino)cinnamaldehyde, 9.3 g (1 mole) of aniline, and 0.19 g (1 mole %) of toluenesulfonic acid in toluene is heated at reflux for 17 hours with azeotropic removal of water. After the mixture is cooled to room temperature, 17.2 g (0.2 mole) of methacrylic acid and 18.1 g (0.1 mole) of 4-nitrophenylacetic acid are added to the solution, and the reaction is stirred at room temperature for 3 hours. The mixture then is heated at reflux for 16 hours. After cooling to room temperature, the solid diphenylbutadiene precipitates from solution and is collected by filtration and purified by recrystallization from ethanol.

reactant | 4-(N-2-hydroxyethyl-N-ethylamino)cinnamaldehyde | 0.1 mole, 21.9 g | OCCN(CC)C1=CC=C(C=CC=O)C=C1 | C13H17NO2
reactant | aniline | 1 mole, 9.3 g | NC1=CC=CC=C1 | C6H7N
reactant | toluenesulfonic acid | 0.19 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | methacrylic acid | 0.2 mole, 17.2 g | C(C(=C)C)(=O)O | C4H6O2
reactant | 4-nitrophenylacetic acid | 0.1 mole, 18.1 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-(N-2-hydroxyethyl-N-ethylamino)-4'-nitro-1,4-diphenyl-1,3-butadiene | OCCN(CC)C(=CC=CC1=CC=CC=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H22N2O3
